US08877801B2
To a 30 mL screw cap vial, (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-4H-1,2,4-triazole (15 mg, 0.032 mmol) was dissolved in DCM (1 mL). The vial was charged with BBr3 (1.0 M in hexanes, 0.095 ml, 0.095 mmol) and the reaction mixture was stirred for 1 h at room temperature. The reaction mixture was quenched with 4 mL MeOH and stirred for 10 min. The mixture was concentrated to 50% volume and purified by reverse phase HPLC (acidic condition, 0.1% TFA in 30-100% CH3CN/H2O) to afford (E)-2-(4-fluoro-2-methylphenyl)-3-(4-(2-(5-methyl-4H-1,2,4-triazol-3-yl)vinyl)phenoxy)benzo[b]thiophen-6-ol (7 mg, 0.015 mmol, 48% yield) as a pale yellow solid. 1H NMR (400 MHz, CD3OD) δ ppm=2.26 (s, 3H), 2.42 (s, 3H), 6.72-6.83 (m, 5H), 6.88 (dd, J=10.11, 2.53 Hz, 1H), 7.14 (d, J=2.02 Hz, 1H), 7.16-7.26 (m, 2H), 7.29-7.41 (m, 3H). LC/MS (m/z, MH+): 458.1.

reactant | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-4H-1,2,4-triazole | 0.032 mmol, 15 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(/C=C/C1=NN=C(N1)C)C=C2)C | C27H22FN3O2S
reactant | BBr3 | 0.095 mmol, 1.0 M, 0.095 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-(4-fluoro-2-methylphenyl)-3-(4-(2-(5-methyl-4H-1,2,4-triazol-3-yl)vinyl)phenoxy)benzo[b]thiophen-6-ol | 0.015 mmol, 7 mg, 48% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)OC2=CC=C(C=C2)\C=C\C2=NN=C(N2)C)C | C26H20FN3O2S
